US06107458
The solution of 1-(4-Methoxycarbonylphenyl)-3-(4-pentyloxyphenyl)propane-1,3-dione (1.00 g) and hydroxylamine hydrochloride (567 mg) in methanol (10 ml) was refluxed for 10 hours. The reaction mixture was diluted with ethyl acetate (50 ml) and washed with water (50 ml×2), brine (50 ml). The organic layer was dried over magnesium sulfate and the solvents were removed under reduced pressure. The residue was triturated with acetonitrile (10 ml), collected by filtration, and dried under reduced pressure to give Methyl 4-[5-(4-pentyloxyphenyl)isoxazol-3-yl]benzoate (0.74 g).

reactant | 1-(4-Methoxycarbonylphenyl)-3-(4-pentyloxyphenyl)propane-1,3-dione | 1.00 g | COC(=O)C1=CC=C(C=C1)C(CC(=O)C1=CC=C(C=C1)OCCCCC)=O | C22H24O5
reactant | hydroxylamine hydrochloride | 567 mg | Cl.NO
solvent | methanol | 10 ml | CO | CH4O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | Methyl 4-[5-(4-pentyloxyphenyl)isoxazol-3-yl]benzoate | 0.74 g | C(CCCC)OC1=CC=C(C=C1)C1=CC(=NO1)C1=CC=C(C(=O)OC)C=C1 | C22H23NO4
